US06620957B1
Ethyl acetate (50 ml) was added to bis(p-tert-butylphenyl)iodonium acetate (467 mg; 1 mmol) and methyl camphorsulfonate (259 mg; 1.05 mmol). The resultant mixture was refluxed for 24 hours while being stirred. The reaction mixture was cooled, and formed solid was removed through filtration. The solid was recrystallized from acetone, and dried under vacuum, to thereby yield 518 mg of bis(p-tert-butylphenyl)iodonium camphorsulfonate (yield: 83%).

reactant | bis(p-tert-butylphenyl)iodonium acetate | 1 mmol, 467 mg | C(C)(=O)[O-].C(C)(C)(C)C1=CC=C(C=C1)[I+]C1=CC=C(C=C1)C(C)(C)C
reactant | methyl camphorsulfonate | 1.05 mmol, 259 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)OC | C11H18O4S
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | bis(p-tert-butylphenyl)iodonium camphorsulfonate | yield 518 mg, yield: 83% | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)[O-].C(C)(C)(C)C2=CC=C(C=C2)[I+]C2=CC=C(C=C2)C(C)(C)C | InChI=1S/C20H26I.C10H16O4S/c1-19(2,3)15-7-11-17(12-8-15)21-18-13-9-16(10-14-18)20(4,5)6;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h7-14H,1-6H3;7H,3-6H2,1-2H3,(H,12,13,14)/q+1;/p-1
